US08357717B2
Stage 6: Methyl 5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate
Methyl 7-benzyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate (3.69 mmol) was dissolved in MeOH (20 ml), and the solution was flushed with nitrogen. Pd(OH)2 (250 mg) and a cat. amount of AcOH were added, and the mixture was again flushed with nitrogen for 20 min. The reaction mixture was reacted under a hydrogen atmosphere (50 psi) for 5 h on a Parr hydrogenation apparatus. Filtration over Celite was then carried out, followed by washing with methanol. The resulting crude product was purified by column chromatography (silica gel, 3-5% MeOH in DCM), and the desired product was thus obtained in the form of a yellow solid. Yield: 99%

reactant | Methyl 7-benzyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate | 3.69 mmol | C(C1=CC=CC=C1)N1CC=2N(CC1)C=NC2C(=O)OC | C15H17N3O2
solvent | MeOH | 20 ml | CO | CH4O
product | Methyl 5,6,7,8-tetrahydroimidazo[1,5-a]pyrazine-1-carboxylate | Yield: 99% | C=1(N=CN2C1CNCC2)C(=O)OC | C8H11N3O2
